US07977351B2
3-Hydroxymethyl-thiophene-2-carboxylic acid
A solution of 3-(1-Hydroxy-ethyl)-thiophene-2-carboxylic acid ethylamide (298 mg, 1.5 mmol) in 15 ml of aqueous 6N HCl solution is heated at 100° C. for 1.5 h. The reaction mixture is cooled to room temperature and the pH is adjusted to ˜8.5 with 30% aqueous NaOH solution and saturated aqueous sodium bicarbonate solution. The resulting solution is extracted with Dichloromethane. The aqueous layer is collected and acidified with aqueous 6N HCl until the pH˜1. The resulting solution is extracted with tBuOH-Ether. The combined organic extracts are dried and concentrated to give the title compound (25 mg, 10%).

reactant | 3-(1-Hydroxy-ethyl)-thiophene-2-carboxylic acid ethylamide | 1.5 mmol, 298 mg | C(C)NC(=O)C=1SC=CC1C(C)O | C9H13NO2S
reactant | HCl | 6N | Cl | ClH
reactant | NaOH | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-Hydroxymethyl-thiophene-2-carboxylic acid | 25 mg, 10% | OCC1=C(SC=C1)C(=O)O | C6H6O3S
